US07727985B2
A 25 ml round-bottom flask with magnetic stirrer was charged with 6-chloro-7-fluoro-8-nitro-9H-β-carboline (98 mg, 0.37 mmol) in 2 ml of anhydrous DMF. A second 10 ml round-bottom flask with magnetic stirrer was charged with 2-dimethylamino-ethanethiol hydrochloride (100 mg, 0.70 mmol) in 2 ml anhydrous DMF. To the resulting suspension was added n-butyllithium (0.43 ml of 1.6 M solution in hexanes, 0.69 mmol) via syringe and the mixture was stirred for 5 min at RT. Next, the thioanion solution was added via syringe to 6-chloro-7-fluoro-8-nitro-9H-β-carboline, and the resulting red solution was stirred at RT for 30 min. The reaction mixture was slowly added to a 5:1 mixture of H2O/saturated aqueous sodium bicarbonate (30 ml) and allowed to sit at RT for several hours. The resulting precipitated solid was collected via suction filtration and air-dried to afford 109 mg of [2-(6-chloro-8-nitro-9H-β-carbolin-7-ylsulfanyl)-ethyl]-dimethyl-amine as an orange solid (83%).

reactant | 6-chloro-7-fluoro-8-nitro-9H-β-carboline | 0.37 mmol, 98 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1F)[N+](=O)[O-] | C11H5ClFN3O2
reactant | 2-dimethylamino-ethanethiol hydrochloride | 0.70 mmol, 100 mg | Cl.CN(CCS)C
reactant | n-butyllithium | 0.69 mmol, 1.6 M, 0.43 ml | C(CCC)[Li]
reactant | H2O | 30 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [2-(6-chloro-8-nitro-9H-β-carbolin-7-ylsulfanyl)-ethyl]-dimethyl-amine | 109 mg, 83% | ClC=1C=C2C=3C=CN=CC3NC2=C(C1SCCN(C)C)[N+](=O)[O-] | C15H15ClN4O2S
